US08476253B2
Methyl 6-[(3-{[(benzyloxy)carbonyl](methyl)amino}propyl)(methyl)carbamoyl]pyridine-3-carboxylate
5-(Methoxycarbonyl)pyridine-2-carboxylic acid (700 mg, 3.86 mmol) was dissolved in methylene chloride (40 mL), triethylamine (0.805 mL, 5.79 mmol) and pivaloyl chloride (0.524 mL, 4.25 mmol) were added under ice cooling, and the mixture was stirred at room temperature for 15 minutes. The reaction mixture was added dropwise to a solution of N,N′-dimethylpropanediamine (1.18 g, 11.6 mmol) in methylene chloride (40 mL) under ice cooling, and the mixture was stirred overnight at room temperature. Triethylamine (4.03 mL, 29.0 mmol) and benzyloxycarbonyl chloride (4.14 mL, 29.0 mmol) were added under ice cooling, and the mixture was stirred at room temperature for 2 hours. The solvent was evaporated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:3→0:100, v/v) to give the title compound (1.23 g; yield, 80%) as a colorless oily substance.

reactant | 5-(Methoxycarbonyl)pyridine-2-carboxylic acid | 3.86 mmol, 700 mg | COC(=O)C=1C=CC(=NC1)C(=O)O | C8H7NO4
reactant | triethylamine | 5.79 mmol, 0.805 mL | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 4.25 mmol, 0.524 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | N,N′-dimethylpropanediamine | 11.6 mmol, 1.18 g | CNC(CC)NC | C5H14N2
reactant | Triethylamine | 29.0 mmol, 4.03 mL | C(C)N(CC)CC | C6H15N
reactant | benzyloxycarbonyl chloride | 29.0 mmol, 4.14 mL | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | Methyl 6-[(3-{[(benzyloxy)carbonyl](methyl)amino}propyl)(methyl)carbamoyl]pyridine-3-carboxylate | 1.23 g, 80% | C(C1=CC=CC=C1)OC(=O)N(CCCN(C(=O)C1=CC=C(C=N1)C(=O)OC)C)C | C21H25N3O5
